US04281012
A mixture of 20.75 g of 2-bromo-4-chloro-phenol, 200 ml of anhydrous tetrahydrofuran cooled to -30° C. was stirred and then 172 ml of a solution of butyllithium in hexane titrating 1.16 M/l were added thereto with stirring over 45 minutes at -30° C. The mixture was stirred for 41/2 hours at -30° C. and was then cooled to -78° C. at which 10.35 ml of cyclohexanone were added over one hour. The mixture was stirred at -75° to -78° C. for 17 hours and the temperature was then allowed to return to room temperature. The mixture was poured into a water-concentrated hydrochloric acid mixture and was then extracted with ether. The ether extracts were washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure to obtain 25 g of raw residue. The latter was chromatographed over silica gel H under pressure and elution with methylene chloride yielded 7 g of 4-chloro-2-(1-hydroxycyclohexyl)-phenol melting at 110° C.

reactant | 2-bromo-4-chloro-phenol | 20.75 g | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | butyllithium | C(CCC)[Li]
reactant | cyclohexanone | 10.35 ml | C1(CCCCC1)=O | C6H10O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 4-chloro-2-(1-hydroxycyclohexyl)-phenol | 7 g | ClC1=CC(=C(C=C1)O)C1(CCCCC1)O | C12H15ClO2
